US06156767
1-(7-Aza-bicyclo[2.2.1]hept-7-yl)-2-[3-{2-[bis-(2-pyridin-3-yl-ethyl)-amino]ethyl}-2-(3,5-dimethyl-phenyl)-1H-indol-5-yl]-2-methylpropan-1-one
To a solution of pyridin-3-yl-acetaldehyde (120 mg in a mixture of 5 mL methanol and 0.018 mL glacial acetic acid) was added 141 mg of 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-1-(7-aza-bicyclo[2.2.1]hept-7-yl)-2-methyl-propan-1-one followed by 20 mg 3Å powdered molecular seives. To this mixture, 68 mg sodium cyanoborohydride was added and the pH adjusted to 5.5 by the addition of 10% methanolic acetic acid. After 15.5 hours, the reaction was quenched by the addition of saturated sodium bicarbonate and the mixture extracted with ethyl acetate. The organic portion was washed successively with saturated ammonium chloride, sodium bicarbonate and brine, then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (methylene chloride:methanol, 92:8) gave the title compound (130 mg). MASS: 640 (M+H)

reactant | pyridin-3-yl-acetaldehyde | N1=CC(=CC=C1)CC=O | C7H7NO
reactant | 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-1-(7-aza-bicyclo[2.2.1]hept-7-yl)-2-methyl-propan-1-one | 141 mg | NCCC1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C | C28H35N3O
reactant | sodium cyanoborohydride | 68 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | acetic acid | 0.018 mL | C(C)(=O)O | C2H4O2
product | 1-(7-Aza-bicyclo[2.2.1]hept-7-yl)-2-[3-{2-[bis-(2-pyridin-3-yl-ethyl)-amino]ethyl}-2-(3,5-dimethyl-phenyl)-1H-indol-5-yl]-2-methylpropan-1-one | 130 mg | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)CCN(CCC=2C=NC=CC2)CCC=2C=NC=CC2)=O | C42H49N5O
